US04072685
500 mg of silver oxide were added to a mixture of 1 g of 3-(3',4'-dimethoxyphenyl)-piperidine in 5 ml of chloroform and then 0.7 ml of phenethyl bromide was added thereto dropwise. The mixture was stirred for 6 hours at room temperature and then 250 mg of silver oxide and 0.35 ml of phenethyl bromide were added thereto. The mixture was stirred at room temperature for 16 hours and was filtered to remove insolubles. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with a 6-3-1 cyclohexane-chloroform-triethylamine mixture yielded 1.045 g of amorphous N-(β-phenylethyl)-3-(3',4'-dimethoxyphenyl)-piperidine.

reactant | 3-(3',4'-dimethoxyphenyl)-piperidine | 1 g | COC=1C=C(C=CC1OC)C1CNCCC1 | C13H19NO2
reactant | phenethyl bromide | 0.7 ml | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | phenethyl bromide | 0.35 ml | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | silver oxide | 500 mg | [Ag]=O
catalyst | silver oxide | 250 mg | [Ag]=O
product | N-(β-phenylethyl)-3-(3',4'-dimethoxyphenyl)-piperidine | 1.045 g | C1(=CC=CC=C1)CCN1CC(CCC1)C1=CC(=C(C=C1)OC)OC | C21H27NO2
